* C:\users\crossover\Desktop\My Mac Desktop\SCHOOL WORK\Imperial College London\EEE\Year 1\Project\electronicsdesignproject\Draft2.asc
V1 N001 N004 AC 0.5 0
V2 N004 0 5
R1 N002 N001 10k
C1 N002 0 100n
D1 N002 N003 D
L1 N003 0 100m
.model D D
.lib C:\users\crossover\My Documents\LTspiceXVII\lib\cmp\standard.dio
;op
.ac dec 10 0.01 10k
.backanno
.end
